US07825253B2
N-[2-(2,2-Dimethyl-2,3-dihydro-benzofuran-7-ylamino)-quinolin-5-yl]-3,5-difluoro-benzenesulfonamide
The title compound, MS: m/e=482.1 (M+H+), was prepared in accordance with the general method of example 89 from 5-nitro-2-chloroquinoline, 3,5-difluorobenzenesulfonylchloride and 7-amino-2,3-dihydro-2,2-dimethylbenzofuran (CAS 68298-46-4).

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,5-difluorobenzenesulfonylchloride | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 7-amino-2,3-dihydro-2,2-dimethylbenzofuran | NC1=CC=CC=2CC(OC21)(C)C | C10H13NO
product | N-[2-(2,2-Dimethyl-2,3-dihydro-benzofuran-7-ylamino)-quinolin-5-yl]-3,5-difluoro-benzenesulfonamide | CC1(OC2=C(C1)C=CC=C2NC2=NC1=CC=CC(=C1C=C2)NS(=O)(=O)C2=CC(=CC(=C2)F)F)C | C25H21F2N3O3S
